US05089504
A solution of 3-propanoyl-4-(2-methylphenylamino)-8-hydroxyquinoline (3.06 g, 10 mmol) and potassium t-butoxide (1.68 g, 15 mmol) in diglyme (50 ml) was heated to 150°, a solution of 2-bromoethanol (0.85 ml, 12 mmol) in diglyme (25 ml) added dropwise, then the mixture raised to reflux temperature with vigorous stirring. After 1 hour a further portion of 2-bromoethanol (0.85 ml) was added, and reflux continued for 2 hours. The diglyme was evaporated, the residue taken up in dichloromethane, washed with water and brine, dried and evaporated. Chromatography (silica gel, ethyl acetate/2% acetic acid/2%-5% methanol) and recrystallization from aqueous isobutyl alcohol gave 3-propanoyl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)-quinoline (0.48 g), m.p. 174°-176°.

reactant | 3-propanoyl-4-(2-methylphenylamino)-8-hydroxyquinoline | 10 mmol, 3.06 g | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)O | C19H18N2O2
reactant | potassium t-butoxide | 15 mmol, 1.68 g | CC(C)([O-])C.[K+]
reactant | 2-bromoethanol | 12 mmol, 0.85 ml | BrCCO | C2H5BrO
reactant | 2-bromoethanol | 0.85 ml | BrCCO | C2H5BrO
solvent | diglyme | 50 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 25 ml | COCCOCCOC | C6H14O3
product | 3-propanoyl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)-quinoline | 0.48 g | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCO | C21H22N2O3
